US07566735B2
N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)methanesulfonamide
A mixture of ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine (1.563 g, 5.29 mmol), triethylamine (1.48 ml, 10.58 mmol) in dichloromethane (40 ml) was stirred under argon in an ice bath. Methanesulfonyl chloride (1.213 g, 0.82 ml, 10.58 mmol) was added dropwise with stirring. The resulting mixture was allowed to stir at room temperature for 5 h. Then the reaction mixture was partitioned between dichloromethane and water. The organic layer was separated and dried over sodium sulphate. The desired product was isolated by column chromatography on silica using 10 to 70% ethyl acetate in n-pentane to give an oil which was then triturated with n-pentane to give the title compound as a white solid (1.602 g, 81%).

reactant | ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine | 5.29 mmol, 1.563 g | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CN)(F)F | C15H16F3N3
reactant | triethylamine | 10.58 mmol, 1.48 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 10.58 mmol, 0.82 ml, 1.213 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)methanesulfonamide | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CNS(=O)(=O)C)(F)F | C16H18F3N3O2S
